US07504433B2
3-(4-{1-[3-Iodo-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethylsulfanyl}-2-methyl-phenyl)-propionic acid methyl ester
To a solution of 1-[3-Iodo-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethanol (1.52 g, 3.96 mmole) and 3-(4-Mercapto-2-methyl-phenyl)-propionic acid methyl ester (0.769 g, 3.96 mmole) in toluene (20 mL) at room temperature, is added tributylphosphine (1.98 mL, 7.92 mmole) followed by a solution of 1,1′-(azodicarbonyl)-dipiperidine (1.99 g, 7.92 mmole) in toluene (20 mL). The reaction is stirred overnight, and then diluted with hexane (100 mL). The precipitate is removed through filtration and the filtrate is concentrated, loaded to a silica gel column, eluted with ethyl acetate in hexane (0-15%) and concentrated to provide the titled compound as yellow solid.

reactant | 1-[3-Iodo-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethanol | 3.96 mmole, 1.52 g | IC1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(C)O | C13H10F3IOS
reactant | 3-(4-Mercapto-2-methyl-phenyl)-propionic acid methyl ester | 3.96 mmole, 0.769 g | COC(CCC1=C(C=C(C=C1)S)C)=O | C11H14O2S
reactant | tributylphosphine | 7.92 mmole, 1.98 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 7.92 mmole, 1.99 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 100 mL | CCCCCC | C6H14
product | 3-(4-{1-[3-Iodo-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethylsulfanyl}-2-methyl-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)SC(C)C=1SC(=CC1I)C1=CC=C(C=C1)C(F)(F)F)C)=O | C24H22F3IO2S2
